US04920120
Ethyl 2-(2,3,4,5-Tetrafluoro-6-methyl-benzoyl)-3-ethoxyacrylate
A solution of 8.1 g (29.1 mmol) of ethyl 3-(2,3,4,5-tetrafluoro-6-methylphenyl)-β-oxopropanoate, 7.2 g (43.3 mmol) of triethyl orthoformate, and 70 ml of acetic anhydride was refluxed for 3.5 hours. The solution was cooled to room temperature and concentrated under high vacuum to give 9.1 g of the title compound. The product was used as is in the next step.

reactant | ethyl 3-(2,3,4,5-tetrafluoro-6-methylphenyl)-β-oxopropanoate | 29.1 mmol, 8.1 g | FC1=C(C(=C(C(=C1F)F)F)C)C(CC(=O)OCC)=O | C12H10F4O3
reactant | triethyl orthoformate | 43.3 mmol, 7.2 g | C(OCC)(OCC)OCC | C7H16O3
solvent | acetic anhydride | 70 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Ethyl 2-(2,3,4,5-Tetrafluoro-6-methyl-benzoyl)-3-ethoxyacrylate | 9.1 g | FC1=C(C(=O)C(C(=O)OCC)=COCC)C(=C(C(=C1F)F)F)C | C15H14F4O4
